US07902383B2
137 g of the above-obtained oil containing N-ethoxy-2,4-dibromobutyric acid amide were dissolved in 500 mL of benzene. To the resultant solution, 12 g of sodium hydride were gradually added while cooling the solution to 15° C. to 20° C. After the completion of the addition, ice was added to the resultant reaction solution to decompose excessive sodium hydride. The resultant solution was washed with a saturated saline, followed by drying the solution by magnesium sulfate. The solution was concentrated under a reduced pressure and purified by silica gel-acetone/benzene column chromatography to give 42 g (0.20 mol) of N-ethoxy-2-bromo-4-butyrolactam (with a yield of 37% from 2,4-dibromobutyric acid bromide).

reactant | N-ethoxy-2,4-dibromobutyric acid amide | C(C)ONC(C(CCBr)Br)=O | C6H11Br2NO2
reactant | sodium hydride | 12 g | [H-].[Na+]
reactant | 2,4-dibromobutyric acid bromide | BrC(C(=O)Br)CCBr | C4H5Br3O
solvent | benzene | 500 mL | C1=CC=CC=C1 | C6H6
product | N-ethoxy-2-bromo-4-butyrolactam | 0.20 mol, 42 g, yield of 37% | C(C)ON1C(C(CC1)Br)=O | C6H10BrNO2
